US07932272B2
Furo[2,3-b]pyridine-5-carboxylic acid ethyl ester
6Oxo-5-trimethylsilanylethynyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester described in Preparation Example P-3 (545 mg, 2.07 mmol) and copper(I)iodide (5.9 mg, 31 μmol) were suspended in ethanol (7 mL) and triethylamine (3 mL), and the mixture was stirred at 75° C. for 20 hours. The reaction mixture was cooled to room temperature, then, potassium carbonate (572 mg, 4.14 mmol) was added to the reaction mixture, which was further stirred at 75° C. for 5 hours. The reaction mixture was cooled to 0° C., then, water was added, the precipitated solid was filtered, and the title compound (303 mg) was obtained as a brown solid. In addition, ethyl acetate was added to the mother liquor for extraction, the organic layer was washed with brine, then, dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), and the title compound (33 mg, 0.17 mmol) was obtained as a white solid.

reactant | 6Oxo-5-trimethylsilanylethynyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC(C(=C1)C#C[Si](C)(C)C)=O | C13H17NO3Si
reactant | potassium carbonate | 4.14 mmol, 572 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I)iodide | 31 μmol, 5.9 mg | [Cu]I
product | Furo[2,3-b]pyridine-5-carboxylic acid ethyl ester | 303 mg | C(C)OC(=O)C=1C=C2C(=NC1)OC=C2 | C10H9NO3
